US06878722B2
Step 28a: Preparation of N-tert-Butyl-1-ethyl-cyclopropylsulfonamide
Step 28a) This compound was prepared form N-tert-Butyl-(3-chloro) propylsulfonamide (59 g, 276 mmol) and ethyl iodide (86.11 g, 552 mmol) according to the procedure of Steps 3Ib-3Ic (Example 2) described in the synthesis of N-tert-Butyl-(1-methyl) cyclopropylsulfonamide. The compound was used as crude: 1H NMR (CHLOROFORM-D) □ ppm 0.82 (m, 2H), 0.99 (t, J=7.48 Hz, 3H), 1.33 (m, 11H), 1.92 (q, J=7.53 Hz, 2H), 3.91 (s, 1H).

reactant | N-tert-Butyl-(3-chloro) propylsulfonamide | 276 mmol, 59 g | C(C)(C)(C)NS(=O)(=O)CCCCl | C7H16ClNO2S
reactant | ethyl iodide | 552 mmol, 86.11 g | C(C)I | C2H5I
reactant | N-tert-Butyl-(1-methyl) cyclopropylsulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)C | C8H17NO2S
product | N-tert-Butyl-1-ethyl-cyclopropylsulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)CC | C9H19NO2S
